US06008230
To a solution of 3-acetyl-4-chloro-8-nitroquinoline (339 mg) in dichloromethane was added 28% solution of sodium methoxide in methanol (0.52 mg) under ice-cooling, and the mixture was stirred for 30 minutes at ambient temperature. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane, 2:3, v/v) to give 3-acetyl-4-methoxy-8-nitroquinoline (239.3 mg).

reactant | 3-acetyl-4-chloro-8-nitroquinoline | 339 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C11H7ClN2O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 0.52 mg | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-acetyl-4-methoxy-8-nitroquinoline | 239.3 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1OC)[N+](=O)[O-] | C12H10N2O4
